Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ restrained driver involved in a head on collision going at
~35mph. He fell asleep at the wheel. He had CT at OSH and was
found to have sternal fx and L5 vertebral body fx so he was
transferred to ___ for further evaluation. He denies history 
of
syncope, seizures or symptoms of chest pain or neurologic
symptoms prior to the crash. He endorses LOC but was able to 
self
extricate from the car. He complains of chest pain and L
hip/flank pain. 

 
Past Medical History:
Afib, GIB, GERD

 
Social History:
___
Family History:
NC
 
Physical Exam:
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: irregularly irregular, No M/G/R. Chest is tender to 
palpation
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
Pelvis is stable. There is minor abrasion over the L hip
Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
___ 06:20AM BLOOD WBC-9.2 RBC-4.69 Hgb-11.0* Hct-37.1* 
MCV-79* MCH-23.5* MCHC-29.6* RDW-26.5* RDWSD-73.2* Plt ___
___ 09:45AM BLOOD Glucose-159* UreaN-22* Creat-0.9 Na-139 
K-4.1 Cl-105 HCO3-25 AnGap-13

L-spine trauma
THERE NO PRIOR RADIOGRAPHS OF THE LUMBAR SPINE. 
  
FRONTAL AND LATERAL VIEW IN NEUTRAL POSITION AND LATERAL VIEWS 
IN FLEXION AND 
EXTENSION ARE SUBMITTED. 
  
IN NEUTRAL POSITION, SPINE IS STRAIGHTENED, AND THERE IS 
MODERATE CONCAVE LEFT 
LOWER LUMBAR SCOLIOSIS. 
  
THERE ARE 5 NON-RIB-BEARING LUMBAR VERTEBRAE.  DISC SPACE 
NARROWING IS MOST 
PRONOUNCED AT THE L2-3 LEVEL, BUT ALSO AT THE ___ AND ___ DISC 
SPACES, WITH 
OSTEOPHYTES OF THE VERTEBRAL BODIES PROJECTING LATERALLY.  WITH 
FLEXION AND 
EXTENSION THERE IS NO SUBLUXATION.  THERE IS MILD LOSS OF HEIGHT 
OF THE FIRST 
LUMBAR VERTEBRAL BODY, BUT THIS IS NOT PATHOLOGIC AND NO LYTIC 
LESIONS ARE 
PRESENT 

 
Brief Hospital Course:
The patient presented to pre-op/Emergency Department on ___ 
. 
Pt was evaluated by ___ arrival to ED. Physical exam notable for 
sternal tenderness. Imaging notable for lumbar injury, dedicated 
films rule out listhesis. Will follow up with spine as 
outpatient. Pt transferred to the ward for observation. 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with oxycodone. 
CV: The patient remained stable from a cardiovascular standpoint 
with known afib; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: The patient was tolerating a regular diet
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
mobilizing with assistance, voiding without assistance, and pain 
was well controlled.  The patient received discharge teaching 
and follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 12.5 mg PO DAILY 

 
Discharge Medications:
1. Metoprolol Succinate XL 12.5 mg PO DAILY 
2. Acetaminophen 650 mg PO TID 
3. Docusate Sodium 100 mg PO BID 
4. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
5. Senna 8.6 mg PO BID:PRN constipation 

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___)
 
Discharge Diagnosis:
sternal fracture
L5 anterior/inferior vert fracture

 
Discharge Condition:
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
You were admitted to ___ after sustaining a sternal fracture 
and anterior/inferior L5 vert body fractures.

* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___